US04377589
4-Diphenylmethyl-3-ethyl-2-ethylimino-4-thiazolidinol hydrobromide
To a filtered solution of 1.32 g. of 1,3-diethyl-2-thiourea in 25 ml. of acetone is added a filtered solution of 3-bromo-1,1-diphenyl-2-propanone in 25 ml. of acetone. The mixture is allowed to stand, then the solid is collected by filtration, washed with acetone and dried in vacuo, giving 3.73 g. of the desired product, m.p. 174°-176° C. (dec.).

reactant | 1,3-diethyl-2-thiourea | C(C)NC(=S)NCC | C5H12N2S
reactant | 3-bromo-1,1-diphenyl-2-propanone | BrCC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C15H13BrO
solvent | acetone | CC(=O)C | C3H6O
product | 4-Diphenylmethyl-3-ethyl-2-ethylimino-4-thiazolidinol hydrobromide | Br.C1(=CC=CC=C1)C(C1(N(C(SC1)=NCC)CC)O)C1=CC=CC=C1 | InChI=1S/C20H24N2OS.BrH/c1-3-21-19-22(4-2)20(23,15-24-19)18(16-11-7-5-8-12-16)17-13-9-6-10-14-17;/h5-14,18,23H,3-4,15H2,1-2H3;1H
